US07723384B2
1-{4-[4-(2,6-Di-tert-butylpyrimidin-4-yl)piperazin-1-yl]butyl}-3,4-dihydro-1H-1-benzazepine-2,5-dione hydrochloride
Analogously to Example 3b, reaction of 2,4-di-tert-butyl-6-piperazin-1-ylpyrimidine (1.26 mmol, 0.35 g) with 1-(4-chlorobutyl)-3,4-dihydro-1H-1-benzazepine-2,5-dione afforded 0.04 g of the title compound.

reactant | 2,4-di-tert-butyl-6-piperazin-1-ylpyrimidine | 1.26 mmol, 0.35 g | C(C)(C)(C)C1=NC(=CC(=N1)C(C)(C)C)N1CCNCC1 | C16H28N4
reactant | 1-(4-chlorobutyl)-3,4-dihydro-1H-1-benzazepine-2,5-dione | ClCCCCN1C(CCC(C2=C1C=CC=C2)=O)=O | C14H16ClNO2
product | 1-{4-[4-(2,6-Di-tert-butylpyrimidin-4-yl)piperazin-1-yl]butyl}-3,4-dihydro-1H-1-benzazepine-2,5-dione hydrochloride | 0.04 g | Cl.C(C)(C)(C)C1=NC(=CC(=N1)N1CCN(CC1)CCCCN1C(CCC(C2=C1C=CC=C2)=O)=O)C(C)(C)C | InChI=1S/C30H43N5O2.ClH/c1-29(2,3)25-21-26(32-28(31-25)30(4,5)6)34-19-17-33(18-20-34)15-9-10-16-35-23-12-8-7-11-22(23)24(36)13-14-27(35)37;/h7-8,11-12,21H,9-10,13-20H2,1-6H3;1H
